US07759337B2
Synthesis of 6-((4-methoxybenzyl)(methyl)amino)-2-fluoropyridin-3-ylboronic acid
In a microwave tube was placed 2,6-difluoropyridine (0.183 mL, 2.00 mmol) and (4-methoxyphenyl)-N-methylmethanamine (0.604 g, 4.00 mmol) in 2 mL of water. The mixture was heated at 150° C. for 20 min. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer were dried over anhydrous sodium sulfate, filtered and concentrated to give 470 mg of a crude yellow oil, which was purified by column chromatography (3/1 hexanes/ethyl acetate) to give 400 mg of N-(4-methoxybenzyl)-6-fluoro-N-methylpyridin-2-amine as a clear, colorless oil. To a solution of diisopropylamine (1.92 mL, 13.6 mmol) in 25 mL of THF at 0° C. was added butyllithium (1.6 M in hexanes, 8.93 mL, 14.3 mmol). The mixture stirred for 30 minutes and was then cooled to −60° C. and N-(4-methoxybenzyl)-6-fluoro-N-methylpyridin-2-amine (1.760 g, 7.15 mmol) was added dropwise in 10 mL of THF. The reaction stirred for 1 h at −60° C. and then triisopropyl borate (2.88 mL, 12.5 mmol) was added and the reaction allowed to warm up to RT and stirred for 1 h. Ammonium chloride (sat.) was added and the reaction was extracted with ethyl acetate (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give 2.13 g of a crude yellow foam, which was purified by column chromatography (3/1 hexanes/ethyl acetate to 1/1 ethyl acetate/hexanes) to give 750 mg of a off-white solid. ES+=291.2 (M+H)

reactant | diisopropylamine | 13.6 mmol, 1.92 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 14.3 mmol, 1.6 M, 8.93 mL | C(CCC)[Li]
reactant | N-(4-methoxybenzyl)-6-fluoro-N-methylpyridin-2-amine | 7.15 mmol, 1.760 g | COC1=CC=C(CN(C2=NC(=CC=C2)F)C)C=C1 | C14H15FN2O
reactant | triisopropyl borate | 12.5 mmol, 2.88 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-((4-methoxybenzyl)(methyl)amino)-2-fluoropyridin-3-ylboronic acid | 750 mg | COC1=CC=C(CN(C2=CC=C(C(=N2)F)B(O)O)C)C=C1 | C14H16BFN2O3
